US08802659B2
2-Methyl-4-trifluoromethyl-quinolin-6-ol
6-Methoxy-2-methyl-4-trifluoromethyl-quinoline (0.894 g, 3.71 mmol) was dissolved in Methylene chloride (60 mL), and cooled to −78° C. A solution of 1.0 M of Boron tribromide in Methylene chloride (11.0 mL, 11.0 mmol) was then added dropwise. The reaction mixture was then warmed up to 23° C. The reaction was allowed to stir 22 h at room temperature. After cooling in an ice bath, saturated sodium bicarbonate solution was added with stirring. The mixture was extracted with methylene chloride and ethyl acetate. The organics were dried over sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography using 0-15% methanol in methylene chloride to give the product (Rf=0.49 in 10% methanol in methylene chloride) in 771 mg yield (92%). ESI-MS (M+H+): 228.10.

reactant | 6-Methoxy-2-methyl-4-trifluoromethyl-quinoline | 3.71 mmol, 0.894 g | COC=1C=C2C(=CC(=NC2=CC1)C)C(F)(F)F | C12H10F3NO
reactant | Boron tribromide | 1.0 M | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 11.0 mmol, 11.0 mL | C(Cl)Cl | CH2Cl2
product | 2-Methyl-4-trifluoromethyl-quinolin-6-ol | CC1=NC2=CC=C(C=C2C(=C1)C(F)(F)F)O | C11H8F3NO
